US03954758
Preparation of 5-fluoro-6-methyl uracil
The preceding example was substantially repeated but at a lower reaction temperature. A suspension of 6-methyl uracil (4.00g) in water (30 ml) was maintained at 0°-10°C and fluorinated with a stream of fluorine and nitrogen, present in equal volumes, until fluorine was detected at the reactor outlet. The reaction mixture was allowed to stand for two days at room temperature and 1.05g of crystals were collected and found to have a different IR spectrum than the starting material. A DSC analysis showed 2 transitions at 313°C and 318°C followed by apparent decomposition. The structure of the product was identified as 5-fluoro-6-methyl uracil by NMR analysis.

reactant | 6-methyl uracil | 4.00g | CC1=CC(NC(N1)=O)=O | C5H6N2O2
reactant | fluorine | FF | F2
solvent | water | 30 ml | O | H2O
product | 5-fluoro-6-methyl uracil | FC=1C(NC(NC1C)=O)=O | C5H5FN2O2
